US06337403B1
1(i) Diethyl 4-cyano-2-fluorobenzylphosphonate
A mixture of 1.5 g (7.0 mmol) of 4-(bromomethyl)-3-fluorobenzonitrile [ref. J.Med.Chem., 40, 2064 (1997)] and 1.4 g (8.4 mmol) of triethyl phosphite was heated at 150° C. for 2 hours. At the end of this time, the reaction mixture was concentrated under reduced pressure. Volatile materials in the residue thus obtained were removed by heating said residue at 100° C. in vacuo for 1 hour to afford 1.97 g (quantitative yield) of the title compound as an oil which solidified in the freezer. This oily product was used in the next step without further purification.

reactant | 4-(bromomethyl)-3-fluorobenzonitrile | 7.0 mmol, 1.5 g | BrCC1=C(C=C(C#N)C=C1)F | C8H5BrFN
reactant | triethyl phosphite | 8.4 mmol, 1.4 g | P(OCC)(OCC)OCC | C6H15O3P
product | Diethyl 4-cyano-2-fluorobenzylphosphonate | 1.97 g, quantitative yield | C(#N)C1=CC(=C(CP(OCC)(OCC)=O)C=C1)F | C12H15FNO3P
